US06258812B1
1-(4-Hydroxyanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 0.384 g (1.5 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine and 0.491 g (4.5 mmol) 4-aminophenol is heated under nitrogen atmosphere for 2 h at 150° C. After processing as described in Example 18, drying under HV (8 h at 100° C. and 24 h at 145° C.), title compound is obtained with a water content of 0.68%; m.p. 239-241° C.; 1H NMR (DMSO-d6) 9.19 (s, 1H), 8.99 (brs, 1H), 8.56 (d, 1H), 8.44 (d, 2H), 8.06 (d, 1H), 7.86-7.96 (m, 2H), 7.61 (d, 2H), 7.30 (d, 2H), 6.77 (d, 2H), 4.53 (s, 2H); ESI-MS: (M+H)+=329.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 1.5 mmol, 0.384 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-aminophenol | 4.5 mmol, 0.491 g | NC1=CC=C(C=C1)O | C6H7NO
product | 1-(4-Hydroxyanilino)-4-(4-pyridylmethyl)phthalazine | OC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | C20H16N4O
